US07211577B2
Preparation of 4-(2-hydroxyethyl)aminomethyl-2-isobutyl-6-(4-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 9(4), 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one and 2-aminoethanol were reacted to yield the title compound as a slightly yellow oil (yield: 80.3%). 1H NMR(400 MHz, CDCl3)δ: 0.98(6H, d, J=6.8 Hz), 2.20–2.38(3H, m), 2.39(3H, s), 2.84(2H, t, J=5.1 Hz), 3.72(2H, t, J=5.1 Hz), 3.82(2H, d, J=1.2 Hz), 4.07(2H, d, J=7.3 Hz), 7.26(2H, d, J=8.1 Hz), 7.68(1H, s), 7.70(2H, d, J=8.1 Hz). IR(Neat) cm−1: 3429, 1652, 1601, 1519. Mass m/z: 315(M+).

reactant | 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)C | C17H22N2O4S
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 4-(2-hydroxyethyl)aminomethyl-2-isobutyl-6-(4-methylphenyl)-2H-pyridazin-3-one | OCCNCC=1C(N(N=C(C1)C1=CC=C(C=C1)C)CC(C)C)=O | C18H25N3O2
